US06410684B1
To a cold (0° C.) solution of sodium hydride (60% dispersion in mineral oil, 3.48 g) in dioxane (70 ml) was added dropwise absolute ethanol (70 ml). The mixture was allowed to warm to room temperature and a solution of diethyl acetamido malonate (20.5 g) in dioxane (70 ml) was added dropwise. Sodium iodide (9.07 g) was added and a solution of 1-acetylamino-4-chloro-2-butyne (11 g) in dioxane (140 ml) was added dropwise at room temperature. After addition of another 100 ml of ethanol the mixture was refluxed for 2.5 h. The reaction mixture was cooled and the precipitate formed was filtered off. Purification using chromatography on silica (eluent: ethyl acetate/methanol 9/1 v/v) yielded acetamido(4-acetamido-2-butynyl)-malonic acid diethyl ester. (15.9 g).

reactant | sodium hydride | 3.48 g | [H-].[Na+]
reactant | diethyl acetamido malonate | 20.5 g | CCOC(=O)C(C(=O)OCC)NC(=O)C | C9H15NO5
reactant | Sodium iodide | 9.07 g | [I-].[Na+]
reactant | 1-acetylamino-4-chloro-2-butyne | 11 g | C(C)(=O)NCC#CCCl | C6H8ClNO
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 140 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | acetamido(4-acetamido-2-butynyl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(CC#CCNC(C)=O)NC(C)=O)=O | C15H22N2O6
